US07229986B2
3-[1-([1,1′-Biphenyl]-4-ylcarbonyl)-1,2,3,4-tetrahydro-6-quinolinyl]-N,N-dimethyl-1-propanamine
Biphenylcarbonyl chloride (327 mg, 1.51 mmol) was added to a solution of N,N-dimethyl-3-(1,2,3,4-tetrahydro-6-quinolinyl)-1-propanamine dihydrochloride (400 mg, 1.37 mmol) obtained in Reference Example 4 and triethylamine (669 ml, 4.81 mmol) in dimethylformamide under cooling with ice-bath, and the mixture was stirred at room temperature for 3 days. Ethyl acetate was added to the reaction solution which was then washed with an aqueous saturated sodium bicarbonate solution and a saturated saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by alumina column chromatography (developing solvent; hexane:ethyl acetate=3:1) and crystallized from hexane, whereby the title compound (113 mg) was obtained as colorless powder with a mp. of 100 to 101° C.

reactant | Biphenylcarbonyl chloride | 1.51 mmol, 327 mg | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N,N-dimethyl-3-(1,2,3,4-tetrahydro-6-quinolinyl)-1-propanamine dihydrochloride | 1.37 mmol, 400 mg | Cl.Cl.CN(CCCC=1C=C2CCCNC2=CC1)C
reactant | triethylamine | 4.81 mmol, 669 ml | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[1-([1,1′-Biphenyl]-4-ylcarbonyl)-1,2,3,4-tetrahydro-6-quinolinyl]-N,N-dimethyl-1-propanamine | C1(=CC=C(C=C1)C(=O)N1CCCC2=CC(=CC=C12)CCCN(C)C)C1=CC=CC=C1 | C27H30N2O
